US06509499B1
251.2 g (3.30 mol) of ammonium thiocyanate are rapidly added to a solution, maintained under a nitrogen atmosphere, of 121.2 g (1 mol) of 3,5-dimethylaniline in 1.75 l of anhydrous N,N-dimethylformamide. The temperature rises from 18 to 35° C. One and a half hours later, the temperature of the solution having returned to room temperature, 263.3 g (1.65 mol) of anhydrous cupric sulphate are added rapidly. The reaction medium is left stirring at room temperature for 3 days and is then poured into 8 l of water. The pH is brought to 7.5 by addition of 550 g (6.55 mol) of sodium bicarbonate. The medium is then filtered, the solid part being washed with ethyl acetate and the liquid part being extracted with ethyl acetate. The combined organic liquid phases are washed with 500 ml of water, dried over sodium sulphate and concentrated to dryness under reduced pressure. The pasty residue obtained is crystallized from 500 ml of hexane to give 128.8 g (72%) of 4-amino-2,6-dimethylphenyl thiocyanate which is used in the next step without further purification.

reactant | ammonium thiocyanate | 3.30 mol, 251.2 g | [S-]C#N.[NH4+]
reactant | 3,5-dimethylaniline | 1 mol, 121.2 g | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | water | 8 l | O | H2O
reactant | sodium bicarbonate | 6.55 mol, 550 g | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 1.75 l | CN(C=O)C | C3H7NO
product | 4-amino-2,6-dimethylphenyl thiocyanate | 128.8 g, 72% | NC1=CC(=C(C(=C1)C)SC#N)C | C9H10N2S
